US04628057
(3RS)-2-[(2-Pyridylmethylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as descsribed in Example 32, (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (3.24 g), KOH (1.75 g), carbon disulfide (0.91 ml), 50% ethanol (70 ml) and 2-pyridylmethyl chloride hydrochloride (2.95 g) are reacted and treated to give the title compound (2.07 g) as pale yellow powder.

reactant | (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 3.24 g | C1NC(CC=2C3=CC=CC=C3NC12)C(=O)O | C12H12N2O2
reactant | KOH | 1.75 g | [OH-].[K+]
reactant | carbon disulfide | 0.91 ml | C(=S)=S | CS2
reactant | 2-pyridylmethyl chloride hydrochloride | 2.95 g | Cl.N1=C(C=CC=C1)CCl
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | (3RS)-2-[(2-Pyridylmethylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 2.07 g | N1=C(C=CC=C1)CSC(=S)N1CC=2NC3=CC=CC=C3C2CC1C(=O)O | C19H17N3O2S2
